US09353107B2
Step-ii: 5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxypyridin-3-amine
Using similar reaction conditions as described in step-iii of example-1, 5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxypyridin-3-amine (80 mg, 0.14 mmol) was hydrolyzed with lithium hydroxide (12 mg, 0.28 mmol) in THF/methanol/water (2/2/1 mL) to yield 10 mg (17.1% yield) after purification by preparative TLC(Silicagel-1000 micron) using 5% methanol in chloroform as eluent. 1H NMR (CD3OD, 300 MHz): δ 8.37 (s, 1H), 8.27 (s, 1H), 8.17 (s, 1H), 7.91 (s, 1H), 7.717-7.712 (d, 1H), 7.61 (s, 1H), 7.36-7.29 (m, 2H), 7.10-6.98 (m, 3H), 5.41 (s, 2H), 4.00 (s, 3H). MS: m/z=415.2 (M+1), HPLC: 88.73% in method B.

reactant | 5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxypyridin-3-amine | 0.14 mmol, 80 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(C(=NC3)OC)N)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C30H25FN6O3S
reactant | lithium hydroxide | 0.28 mmol, 12 mg | [OH-].[Li+]
solvent | THF methanol water | 1 mL | C1CCOC1.CO.O
product | 5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxypyridin-3-amine | 17.1% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C(=NC3)OC)N)C=CC1 | C23H19FN6O
